datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)O1.CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC[O:33][C:22](=[C:21](C)[CH2:20][C:10]1=CC=C(C)O1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH2:10][CH:20]1CC[C:22]([O-:23])=[C:21]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([C:10](C2=CC=CC=C2)([C:11](=[O:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.[N:10](=[O:61])[O-:71]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([N+:10](=[O:61])[O-:71])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"C[Si](C)(C)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C[Si](C)(C)[C:13]1=[O+:14][CH:10]([Cl:20])[CH:11]=[CH:12]1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"FC(F)(F)C[NH2:10].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([NH2+:10]CC(F)(F)F)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C1C[N:10]2CCC1CC2>>C1=CC=C([C:20]2([N+:10]34CCC(CC3)CC4)[S:31]CCC[S:41]2)C=C1 10=20
"CC[O:82][C:71]([C-:10](F)[C:61](=[O:62])[O:92]CC)=[O:72].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC[O:82][C:71]([C:10](F)([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>C[C:61]([CH:10]([C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20;20,21=21"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.[N-:10]1[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]1>>C1=CC=C([S:32]([C-:21]([CH2:20][N:10]2[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.C[Si](C)(C)C12[C:31]3([CH2:20][H:10])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"C1C[C:20](=[O:21])C1.F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>F[C:10]1([C:20]2([O-:21])CCC2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20;20,21=21"
"CC[O:61]/[C:11](=[C:10](\C(C)C)[C:72](=[O:73])[O:83]CC)[O-:12].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:61][C:11]([C:10](C(C)C)([CH:20]([CH:21]=[CH:22][N:23]1C2=C(C=CC=C2)CC1C(=O)[O-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1CC[C:11]([N:12]2CCOCC2)=[CH:10]C1.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CN1CC[C:11](=[N+:12]2CCOCC2)[CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34]([O:37]C)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)C1 10,11=10,20;12=11,12"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.CCCC[O:72][C:11](=[CH2:10])[O:12][Si:63](C)(C)C(C)(C)C>>CCCC[O:72][C:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42](C1=CC=CC=C1)[C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)=[O+:12][Si:63](C)(C)C(C)(C)C 10,11=10,20;12=11,12"
